US07220771B2
D. 3-(4-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile
A flask was charged with 300 mg (0.98 mmol) of 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile 223 mg (1.47 mmol, 1.50 equiv.) of 4-methoxyplhenylboronic acid, 80.3 mg (0.098 mmol, 0.100 equiv.) of [1,1′-bis(diphenylphosphino)-ferrocene} dichloropalladiuin (II) complex with dichloromethane (Aldrich), 1.04 g (4.90 mmol, 4.98 equiv.) of powdered potassium phosphate (K3PO4), and 4.90 mL of anhydrous 1,2-dimethoxyethane (DME). The mixture was refluxed under nitrogen for 19 h. The mixture was diluted with CH2Cl2, washed with 2× sat. aq. NaHCO3, and dried (Na2SO4). The crude material was purified by silica gel chromatography using 20–30% EtOAc in hexanes affording the title compound (251 mg, 77% yield): ES-MS (m/z) 334 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.98 mmol, 300 mg, 1.50 equiv. | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | potassium phosphate | 4.90 mmol, 1.04 g, 4.98 equiv. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-dimethoxyethane | 4.90 mL | COCCOC | C4H10O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 251 mg, 77% yield | COC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C20H19N3O2
